US06593437B1
0.97 g (3.24 mmol) of 1′,2′,3′,4′,5′-pentamethylferrocene-1-carboxylic acid is converted into the acid chloride by reaction with 0.683 g (3.28 mmol) of phosphorus pentachloride in 30 ml of toluene, as described by B. Bildstein, A. Hradsky, H. Kopacka, R. Malleier, K. H. Ongania, J. of Organomet. Chem. 540 (1997) 127. After stirring for six hours, toluene, phosphorus oxytrichloride and the other volatile constituents are taken off in a high vacuum. The resulting residue is dissolved in 30 ml of absolute toluene and reacted with 0.21 g (3.24 mmol) of sodium azide in the presence of 0.737 g (3.24 mmol) of benzyltriethylammonium bromide as phase transfer catalyst to form 1′,2′,3′,4′,5′-pentamethylferrocene-1-carboxylic acid azide. After stirring overnight, an aqueous work-up is carried out and the product is chromatographed (Al2O3, eluant: petroleum ether/ether 1:1). In addition to 0.13 g of 1′,2′,3′,4′,5′-pentamethylferrocene-1-carboxylic acid azide, 0,2 g of 1′,2′,3′,4′,5′-pentamethylferrocene-1-carboxylic acid is recovered, corresponding to a conversion of 0.77 g (2.56 mmol) of carboxylic acid into 0.13 g of acid azide in a yield of 15.6%.

reactant | 1′,2′,3′,4′,5′-pentamethylferrocene-1-carboxylic acid | 3.24 mmol, 0.97 g | C[C-]1C(=C(C(=C1C)C)C)C.[C-]1(C=CC=C1)C(=O)O.[Fe+2]
reactant | phosphorus pentachloride | 3.28 mmol, 0.683 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxytrichloride | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium azide | 3.24 mmol, 0.21 g | [N-]=[N+]=[N-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | benzyltriethylammonium bromide | 3.24 mmol, 0.737 g | [Br-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1′,2′,3′,4′,5′-pentamethylferrocene-1-carboxylic acid azide | yield of 15.6% | C[C-]1C(=C(C(=C1C)C)C)C.[C-]1(C=CC=C1)C(=O)N=[N+]=[N-].[Fe+2] | InChI=1S/C10H15.C6H4N3O.Fe/c1-6-7(2)9(4)10(5)8(6)3;7-9-8-6(10)5-3-1-2-4-5;/h1-5H3;1-4H;/q2*-1;+2
